US09255094B2
Preparation of ±, (R) and (S) 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)butan-2-ol (Compound Nos. 1-24, 1-62 and 1-63)
A flask was charged with sodium hydride (0.640 g, 50-60%) in dry DMF (10 mL) at 0° C. and to this was added 2,8-dimethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole (0.8 g). The mixture was stirred at RT for 30 min and then 4-(2-ethyloxiran-2-yl)pyridine (0.834 g) dissolved in DMF (2 mL) was added, stirred at RT for 12 h. The reaction mixture was diluted with ice-water and extracted with EtOAc (3×30 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and evaporated. The crude product was triturated with diethyl ether to obtain the desired compound. The racemic compound was further separated into the (R) and (S) enantiomers by use of chiral HPLC. 1HNMR (DMSO, Oxalate salt) d (ppm): 8.45 (d, 2H), 7.42 (d, 2H), 7.30 (d, 1H), 7.10 (s, 1H), 6.82 (d, 1H), 4.30 (d, 1H), 4.18 (d, 1H), 3.60 (s, 2H), 3.50 (m, 2H), 3.38 (m, 1H), 3.0 (m, 2H), 2.90 (s, 3H), 3.32 (s, 3H), 2.10 (m, 1H), 0.6 (t, 3H).

reactant | sodium hydride | 0.640 g | [H-].[Na+]
reactant | 2,8-dimethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 0.8 g | CN1CC2C(NC=3C=CC(=CC23)C)CC1 | C13H18N2
reactant | 4-(2-ethyloxiran-2-yl)pyridine | 0.834 g | C(C)C1(OC1)C1=CC=NC=C1 | C9H11NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)butan-2-ol | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CC)(O)C2=CC=NC=C2)CC1 | C22H27N3O
